US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(diphenylmethyloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, and then deprotecting, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl][2- (2-hydroxyphenoxy)ethyl]amine hydrochloride.

reactant | 2-[2-(diphenylmethyloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl][2- (2-hydroxyphenoxy)ethyl]amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)O | InChI=1S/C20H24N2O2.ClH/c1-20(2,13-15-14-21-17-8-4-3-7-16(15)17)22-11-12-24-19-10-6-5-9-18(19)23;/h3-10,14,21-23H,11-13H2,1-2H3;1H
